US05073556
Meanwhile, a suspension of diethyl ethoxymagnesium malonate in diethyl ether was prepared from a mixture of 2.80 g (0.0238 moles) of magnesium ethoxide and 3.81 g (0.0238 moles) of diethyl malonate in 60 ml of anhydrous diethyl ether by heating under reflux for 1 hour, whilst stirring. A solution of the 3-difluoromethoxy-2,4,5-trifluorobenzoyl chloride prepared as described above in 50 ml of anhydrous diethyl ether was then added dropwise to the suspension, whilst stirring at room temperature, and the mixture was then stirred at room temperature for an additional 2 hours. 35 ml of 1N aqueous hydrochloric acid were added to the reaction mixture, and the mixture was vigorously stirred. The organic layer was then separated, washed with water and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure to give 7.07 g of diethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylmalonate [(XIV), R1 =--OCHF2, R3' =H, R17 =C2H5, X=X'=F] as a brown liquid.

reactant | diethyl ethoxymagnesium malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | magnesium ethoxide | 0.0238 moles, 2.80 g | [O-]CC.[Mg+2].[O-]CC
reactant | diethyl malonate | 0.0238 moles, 3.81 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-difluoromethoxy-2,4,5-trifluorobenzoyl chloride | FC(OC=1C(=C(C(=O)Cl)C=C(C1F)F)F)F | C8H2ClF5O2
reactant | hydrochloric acid | 1N, 35 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | diethyl 3-difluoromethoxy-2,4,5-trifluorobenzoylmalonate | 7.07 g | FC(OC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1F)F)F)F | C15H13F5O6
